US08008303B2
6-Methyl-biphenyl-3,4′-dicarboxylic acid 3-methyl ester
A mixture of 3-bromo-4-methyl-benzoic acid methyl ester (3 g), 4-hydroxycarbonyl-phenyl boronic acid (2.21 g), cesium carbonate (4.26 g) and tetrakis(triphenylphosphine)palladium0 (catalytic quantity), in 1:2 aqueous DME (75 ml) was heated to reflux for 18 h. The cooled reaction was then evaporated to dryness and the residue purified on silica gel. Elution with dichloromethane:ethanol:0.880 ammonia; 800:8:1 to 100:8:1 gave a yellow crystalline solid (3.4 g)

reactant | 3-bromo-4-methyl-benzoic acid methyl ester | 3 g | COC(C1=CC(=C(C=C1)C)Br)=O | C9H9BrO2
reactant | 4-hydroxycarbonyl-phenyl boronic acid | 2.21 g | OC(=O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | cesium carbonate | 4.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 75 ml | COCCOC | C4H10O2
product | 6-Methyl-biphenyl-3,4′-dicarboxylic acid 3-methyl ester | 3.4 g | COC(=O)C=1C=C(C(=CC1)C)C1=CC=C(C=C1)C(=O)O | C16H14O4
